US07153854B2
A mixture of benzyl 5-[3-(5-ethoxy-5-oxopentyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-4-yl]nicotinate (330 mg) and 10% palladium on carbon (33 mg) in methanol (10 mL) was stirred under 4 atm hydrogen atmosphere at ambient temperature for 2 hours. The catalysts were filterred off and washed with chloroform. The filtrates were evaporated in vacuo to give 5-[3-(5-ethoxy-5-oxopentyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-4-yl]nicotinic acid as yellow oil (272 mg)

reactant | benzyl 5-[3-(5-ethoxy-5-oxopentyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-4-yl]nicotinate | 330 mg | C(C)OC(CCCCC1=C(C=2N(N=C1C)C(=CC2)CC)C=2C=NC=C(C(=O)OCC1=CC=CC=C1)C2)=O | C30H33N3O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 33 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | 5-[3-(5-ethoxy-5-oxopentyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-4-yl]nicotinic acid | 272 mg | C(C)OC(CCCCC1=C(C=2N(N=C1C)C(=CC2)CC)C=2C=NC=C(C(=O)O)C2)=O | C23H27N3O4
